subckt HHM1506_1_ncss p1 n1 p2 n2 p3 n3
parameters A=[ -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 5.5000000000000000e+08 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.1055849214300594e+09 -2.8617175054660952e+08]
parameters B=[ 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.9965688461288382e-01 -2.2758477969028315e-02 -1.2967834306339862e-02]
parameters C=[ -7.5301132492664078e+10 2.7308944406762857e+07 -1.3514535810383261e+10 6.9319875842733802e+06 2.1453240097170628e+10 -9.9094296151612718e+06 -2.0942350935441046e+05 -6.9852712725586432e+05 -1.3514717098261497e+10 6.9507947239895314e+06 -9.1689790302613068e+09 1.6160202182008052e+08 5.6198139909561377e+09 -1.7910419583832636e+07 2.6149520370848306e+04 -8.1683852497839607e+03 2.1453327037722141e+10 -9.9407368016104661e+06 5.6198172157439461e+09 -1.7911050160041779e+07 -1.3563270047286968e+10 1.5293242978656313e+08 -2.4850557443008965e+04 -2.3310484155237598e+04]
parameters D=[ 9.0665840072705173e-01 1.6261233125295804e-01 -2.5831148176345486e-01 1.6261233125295804e-01 1.1066977683437865e-01 -6.7705517799464196e-02 -2.5831148176345486e-01 -6.7705517799464196e-02 1.6345951946805307e-01]
parameters Aw=[ -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.2943121461601074e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.1819543845528498e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -8.1055849214300594e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 5.5000000000000000e+08 -2.8617175054660952e+08]
parameters Bw=[ -1.1421853224386613e+11 2.2407077054440752e+08 -9.2689446193085499e+06 7.3524876464440092e+07 -2.3978943781605456e+06 3.3555457176730073e+04 -2.0428847832461143e+10 -3.7431660726589272e+10 -1.6908487630185929e+08 2.3587166105812196e+07 1.7443027086437231e+08 1.5057875236371748e+07 3.2526140339397236e+10 9.5948704213897800e+09 -3.7627223643104965e+10 -2.7322809978501815e+07 -3.0852386664551672e+07 1.6669594053305918e+08 7.3612959837036794e+06 -5.5793622255335888e+05 6.0837973342808718e+06 -2.7557041938278660e+07 1.9025959692504231e+06 -1.2993385855144174e+06]
parameters Cw=[ 1.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -9.9965688461288382e-01 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.2758477969028315e-02 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 -1.2967834306339862e-02]
parameters Dw=[ 1.3465945148096710e+00 -6.2176519965009467e-05 1.0135428325035418e-04 2.4153504253724445e-01 4.0373305113330976e-01 1.7829108343013744e-05 -3.8368725298664719e-01 -1.0587301932462734e-01 4.1048024874621414e-01]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2 p3 n3) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
I3 (p3 n3) cccs gain=-1 probe=V3
Xnoise (s1 0 s2 0 s3 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
V3 (s3 0) vsource  noisevec=[1 noiseref]
ends HHM1506_1_ncss
