subckt HHM1506_ncss p1 n1 p2 n2 p3 n3
parameters A=[ -7.2357761534008190e+07 1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -7.2357761534008190e+07 1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -7.2357761534008190e+07 1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 6.0000000000000000e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.2864635041459747e+10 -2.9829983089895077e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 6.0000000000000000e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.2644809865315063e+10 -8.1229573307946122e+08]
parameters B=[ 2.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.9341922114559401e-04 7.0444680003050486e-01 -7.0975676715039970e-01 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 9.9752995518990961e-01 -7.0008929796111050e-02 -5.7217346687512679e-03]
parameters C=[ -1.8680880200110378e+06 -8.4110470602689357e+05 4.1611236604431807e+06 -1.1244840771816467e+05 2.4447051799295042e+06 -5.7861339176925877e+05 9.3205323625974610e+07 -3.0971738059739105e+07 -5.4019500892602123e+07 1.7078943468506642e+07 3.5824859933255282e+06 -3.4210131407250924e+05 3.2618303573139854e+07 -1.6886421408127185e+06 3.2542986125852242e+07 -2.2953994566257214e+06 -2.7219860362870075e+07 -9.1220836445791810e+05 2.8424795489836209e+07 -9.6946034611559939e+06 8.2029099058674928e+05 -1.6659673475518478e+06 3.3859025872787625e+07 1.7518623702488386e+05 3.3280263344328955e+07 -1.0673043846157396e+06 5.9251941140460216e+07 -1.1776244545177503e+06 -4.3291038656801946e+07 1.4807288076404149e+07]
parameters D=[ 8.5692428964134187e-03 -1.7461446692364528e-04 7.9352703871996412e-04 -1.7461446692364528e-04 4.0169260697316906e-03 -3.0135992089873206e-03 7.9352703871996412e-04 -3.0135992089873206e-03 5.0012585140624000e-03]
parameters Aw=[ -7.2357761534008190e+07 -1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -7.2357761534008190e+07 -1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -7.2357761534008190e+07 -1.6070866409987940e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.6070866409987940e+10 -7.2357761534008190e+07 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.2864635041459747e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 6.0000000000000000e+09 -2.9829983089895077e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.2644809865315063e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 6.0000000000000000e+09 -8.1229573307946122e+08]
parameters Bw=[ 2.0893723149379969e+06 9.1865459762580635e+05 -1.0455635976316804e+07 -2.2739402784952659e+07 7.6975192908351058e+06 -2.3825339768347880e+06 -4.2672862369471341e+06 -4.3533782999383928e+06 -5.7644054637694381e+07 8.8613237214773986e+06 -3.0897718324351780e+07 -2.9529664622804005e+07 -7.4383959138775114e+06 -1.6217715716559350e+07 -5.5695019014398403e+07 -1.3778680310669770e+06 -2.6534941876458116e+07 -3.2003498080364097e+07 9.3639383408177412e+08 -3.1264883874850053e+08 8.0100523630883262e+07 8.4463433465233166e+06 -3.9780016172817099e+08 9.1460065723189369e+07 -5.8901884728226066e+08 2.6018713915628392e+08 -3.5407044430512339e+07 -1.3164804790674688e+08 1.4564915353012638e+07 4.1742624564547963e+07]
parameters Cw=[ 2.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.9341922114559401e-04 0.0000000000000000e+00 9.9752995518990961e-01 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 7.0444680003050486e-01 0.0000000000000000e+00 -7.0008929796111050e-02 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 -7.0975676715039970e-01 0.0000000000000000e+00 -5.7217346687512679e-03]
parameters Dw=[ 1.2718680632971882e-01 3.0357198384924032e-02 -6.3594492443764675e-03 -2.2160735976590507e-02 8.5038191715650358e-02 1.7642558492790211e-02 3.3123290799204348e-02 -7.4311737044686937e-02 5.8164683203447837e-02]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2 p3 n3) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
I3 (p3 n3) cccs gain=-1 probe=V3
Xnoise (s1 0 s2 0 s3 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
V3 (s3 0) vsource  noisevec=[1 noiseref]
ends HHM1506_ncss
