subckt channel_ncss p1 n1 p2 n2
parameters A=[ -5.0883530053442793e+09 3.8996254680845955e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.8996254680845955e+10 -5.0883530053442793e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.3606692998568670e+10 4.1211670549067383e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.1211670549067383e+10 -1.3606692998568670e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -5.0883530053442793e+09 3.8996254680845955e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.8996254680845955e+10 -5.0883530053442793e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.3606692998568670e+10 4.1211670549067383e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -4.1211670549067383e+10 -1.3606692998568670e+10]
parameters B=[ 2.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00]
parameters C=[ -2.2003837970358819e+08 1.6429907893973534e+09 -2.8936684690644379e+09 -5.8940029116552925e+09 -2.5577023119187841e+09 1.0247937872126464e+09 5.2506694321966858e+09 -2.3999051815642557e+09 -2.5577023119187841e+09 1.0247937872126464e+09 5.2506694321966858e+09 -2.3999051815642557e+09 -7.3973058919055477e+07 1.0711591421902008e+09 -2.3966893215621572e+09 -4.1875671790747747e+09]
parameters D=[ -1.4870887731008064e-01 -1.3734671531558215e-01 -1.3734671531558215e-01 -1.0691857040090820e-01]
parameters Aw=[ -5.0883530053442793e+09 -3.8996254680845955e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 3.8996254680845955e+10 -5.0883530053442793e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.3606692998568670e+10 -4.1211670549067383e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 4.1211670549067383e+10 -1.3606692998568670e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -5.0883530053442793e+09 -3.8996254680845955e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 3.8996254680845955e+10 -5.0883530053442793e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -1.3606692998568670e+10 -4.1211670549067383e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 4.1211670549067383e+10 -1.3606692998568670e+10]
parameters Bw=[ -0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 -0.0000000000000000e+00 -0.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -0.0000000000000000e+00 -0.0000000000000000e+00 -0.0000000000000000e+00]
parameters Cw=[ 2.0000000000000000e+00 -0.0000000000000000e+00 2.0000000000000000e+00 -0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 2.0000000000000000e+00 -0.0000000000000000e+00 2.0000000000000000e+00 -0.0000000000000000e+00]
parameters Dw=[ -1.4870887731008064e-01 -1.3734671531558215e-01 -1.3734671531558215e-01 -1.0691857040090820e-01]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
Xnoise (s1 0 s2 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
ends channel_ncss
