subckt symind_ncss p1 n1 p2 n2
parameters A=[ -3.0709212505480389e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.7087106329011412e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.5387912151068277e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.0709212505480389e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.7087106329011412e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.5387912151068277e+09]
parameters B=[ 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00]
parameters C=[ 2.8138086172977209e+08 5.1725524923889303e+09 3.2525422591933751e+09 -1.7621303988270852e+08 -4.1872528548838029e+09 2.7263779500694962e+09 -1.7621303988664731e+08 -4.1872528548178968e+09 2.7263779500075226e+09 2.7244144020619547e+08 4.9727543838799391e+09 3.3899014127338791e+09]
parameters D=[ 1.0398500930569844e-03 -2.9696589448158971e-04 -2.9696589448158971e-04 1.0285177167150305e-03]
parameters Aw=[ -3.0709212505480389e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.7087106329011412e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.5387912151068277e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.0709212505480389e+10 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -3.7087106329011412e+09 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 -2.5387912151068277e+09]
parameters Bw=[ -2.5189535777794857e+10 4.0952776400500941e+08 5.5480108987633446e+10 2.5795181450366745e+09 -4.1843796072885696e+10 -2.5852368755923562e+09 7.5845201787239637e+09 -2.3833791760133152e+10 -1.3392300908415089e+10 5.3656330122061569e+10 9.4919001500056610e+09 -4.0682448917398598e+10]
parameters Cw=[ 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 0.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00 1.0000000000000000e+00]
parameters Dw=[ 4.5603729958348459e-02 0.0000000000000000e+00 -1.3023754625019464e-02 4.3444415623844511e-02]
parameters noisetemp=27
parameters noiseref=2*P_K*(noisetemp+P_CELSIUS0)

Xmod (p1 n1 p2 n2) cktrom a=A b=B c=C d=D
I1 (p1 n1) cccs gain=-1 probe=V1
I2 (p2 n2) cccs gain=-1 probe=V2
Xnoise (s1 0 s2 0) cktrom a=Aw b=Bw c=Cw d=Dw
V1 (s1 0) vsource  noisevec=[1 noiseref]
V2 (s2 0) vsource  noisevec=[1 noiseref]
ends symind_ncss
